US08754103B2
To a round bottom flask was added 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (0.982 mmole), 4-(trifluoromethoxy)phenylboronic acid (1.18 mmole), tetrakis(triphenylphosphine)palladium (0.0491 mmole), 2M Na2CO3 (2 mL), and 1,2-dimethoxyethane (3 mL). The resulting reaction mixture was heated at 85 C for 2 hours. The reaction mixture was diluted with ethyl acetate and filtered through celite. The filtrate was washed with water. The organic extract was dried over Na2SO4 and evaporated in vacuo. The crude residue was purified by preparative HPLC to yield 6-(4-(trifluoromethoxy)phenyl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine.

reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 0.982 mmole | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
reactant | 4-(trifluoromethoxy)phenylboronic acid | 1.18 mmole | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | Na2CO3 | 2M, 2 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 1,2-dimethoxyethane | 3 mL | COCCOC | C4H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.0491 mmole | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(4-(trifluoromethoxy)phenyl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | FC(OC1=CC=C(C=C1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F)(F)F | C13H6F6N4O
